US07271130B2
Stage 3: Preparation of 2-(3,5-dichlorophenoxy)-3-methoxypropionic acid.
An emulsion of methyl 2-(3,5-dichlorophenyl)-3-methoxypropionate in sodium hydroxide (0.14 g) and water (2 ml) was stirred at ambient temperature for 2 hours when a clear solution was produced. The mixture was acidified with concentrated sulphuric acid (0.34 g), diluted with water then extracted with diethyl ether. The organic phase was separated, extracted with aqueous sodium hydrogen carbonate and the organic phase discarded. The basic aqueous extract was acidified with concentrated hydrochloric acid and extracted with diethyl ether. The extract was dried over magnesium sulphate and evaporated under reduced pressure to give a colourless oil, 0.50 g, containing a mixture of the required product and 2-(3,5-dichlorophenoxy)-acrylic acid in the ratio 2:1, which was used in the next Stage without further purification. 2-(3,5-Dichlorophenoxy)-3-methoxypropionic acid was characterised from its NMR spectrum.

reactant | methyl 2-(3,5-dichlorophenyl)-3-methoxypropionate | ClC=1C=C(C=C(C1)Cl)C(C(=O)OC)COC | C11H12Cl2O3
reactant | sulphuric acid | 0.34 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(3,5-dichlorophenoxy)-acrylic acid | ClC=1C=C(OC(C(=O)O)=C)C=C(C1)Cl | C9H6Cl2O3
solvent | sodium hydroxide | 0.14 g | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 2-(3,5-dichlorophenoxy)-3-methoxypropionic acid | ClC=1C=C(OC(C(=O)O)COC)C=C(C1)Cl | C10H10Cl2O4
